US07767854B2
To a mixture of potassium t-butoxide (0.54 g) and tetrahydrofuran (10 ml) at room temperature was added 4-fluorobutyltriphenylphosphonium bromide (2.0 g). After stirring for 30 minutes, a solution of t-butyl 4-oxocyclohexylcarbamate (0.50 g) in tetrahydrofuran (5 ml), and the mixture was stirred at room temperature. After 10 hours, saturated aqueous ammonium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over sodium sulfate, and the solvent was evaporated under reduced pressure from the organic layer. The residue was suspended in hexane and the suspension was stirred at 40° C. After 20 minutes, the precipitate was filtrated off, and the filtrate was concentrated under reduced pressure to give 400 mg of t-butyl [4-(4-fluorobutylidene)cyclohexyl]-carbamate.

reactant | potassium t-butoxide | 0.54 g | CC(C)([O-])C.[K+]
reactant | 4-fluorobutyltriphenylphosphonium bromide | 2.0 g | [Br-].FCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butyl 4-oxocyclohexylcarbamate | 0.50 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl [4-(4-fluorobutylidene)cyclohexyl]-carbamate | 400 mg | FCCCC=C1CCC(CC1)NC(OC(C)(C)C)=O | C15H26FNO2
